US05721245
A solution of 400 mg of 3-[8-cyano-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 12 ml of dimethylformamide and 12 ml of 33% aqueous ammonia was heated to 140° C. for 3 hours. The mixture was cooled and the resulting solid was filtered off and dried to give 275 mg of 3-[8-cyano-6,7,8,9-tetrahydropyrido-[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 312°-313° C.

reactant | 3-[8-cyano-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 400 mg | C(#N)C1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C26H19N3O3
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 12 ml | N | H3N
product | 3-[8-cyano-6,7,8,9-tetrahydropyrido-[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 275 mg | C(#N)C1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C26H20N4O2
